US07745462B2
Methyl 3-phenylbutyrate
Thionyl chloride (44 ml, 91.4 mmol) is added dropwise to methanol (30 ml) at 0° C., followed by 3-phenylbutyric acid (10 g, 60.9 mmol). The reaction is stirred for 4 hours and the solvent is evaporated. The residue is partitioned between t-butylnethyl ether and aqueous ammonia. The organic phase is washed with water and brine, dried (Na2SO4) and evaporated to afford the title compound. MH+179.

reactant | Thionyl chloride | 91.4 mmol, 44 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-phenylbutyric acid | 60.9 mmol, 10 g | C1(=CC=CC=C1)C(CC(=O)O)C | C10H12O2
reactant | methanol | 30 ml | CO | CH4O
product | Methyl 3-phenylbutyrate | C1(=CC=CC=C1)C(CC(=O)OC)C | C11H14O2
